US04287335
In 20 ml of methanol, 4.28 g of 1,2-dimethylquinolinium iodide and 3.47 g of p-(2,2-dimethoxyethoxy)benzaldehyde were dissolved. The resultant solution, with 0.3 ml of piperidine added thereto, was refluxed for seven hours. The solution was left to cool. The crystals which consequently deposited were collected through filtration and then washed thoroughly with acetone. Consequently, there was obtained 5.03 g of 1-methyl-2-[p-(2,2-dimethoxyethoxy)-styryl]quinolinium iodide which boiled at 209°~212° C. This product in water showed absorption bands (λmax) at 224, 255, 307 and 399 nm. The infrared absorption spectrum (KBr) showed peaks at 1610, 1590, 1572, 1516, 1240, 1180, 1130, 1068, 985, 830, 780 and 760 cm-1.

reactant | 1,2-dimethylquinolinium iodide | 4.28 g | [I-].C[N+]1=C(C=CC2=CC=CC=C12)C
reactant | p-(2,2-dimethoxyethoxy)benzaldehyde | 3.47 g | COC(COC1=CC=C(C=O)C=C1)OC | C11H14O4
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
solvent | methanol | 20 ml | CO | CH4O
product | 1-methyl-2-[p-(2,2-dimethoxyethoxy)-styryl]quinolinium iodide | 5.03 g | [I-].C[N+]1=C(C=CC2=CC=CC=C12)C=CC1=CC=C(C=C1)OCC(OC)OC | InChI=1S/C22H24NO3.HI/c1-23-19(13-11-18-6-4-5-7-21(18)23)12-8-17-9-14-20(15-10-17)26-16-22(24-2)25-3;/h4-15,22H,16H2,1-3H3;1H/q+1;/p-1
